US04254036
8-(2-Furoyl)-8-Hydroxy-2-Phenylthiooctanoic Acid
To a stirred solution of 3.61 g of 7-(2-furoyl)-2-phenylthioheptanoic acid in 15 ml of DME is added 25 ml of water and 5.45 ml of 1.0 M aqueous sodium carbonate. The resulting solution is treated furing 1 min. with 0.41 g of sodium borohydride in small portions. The mixture is stirred at ambient temperature for 3.5 hours, diluted with ethyl acetate, cooled to 0°, and treated with 4 M hydrochloric acid. The ethyl acetate layer is washed with water and brine, dried over MgSO4, and concentrated to give an oil.

reactant | 7-(2-furoyl)-2-phenylthioheptanoic acid | 3.61 g | O1C(=CC=C1)C(=O)CCCCCC(C(=S)O)C1=CC=CC=C1 | C18H20O3S
reactant | sodium carbonate | 1.0 M, 5.45 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium borohydride | 0.41 g | [BH4-].[Na+]
reactant | hydrochloric acid | 4 M | Cl | ClH
solvent | DME | 15 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 25 ml | O | H2O
product | 8-(2-Furoyl)-8-Hydroxy-2-Phenylthiooctanoic Acid | O1C(=CC=C1)C(=O)C(CCCCCC(C(=S)O)C1=CC=CC=C1)O | C19H22O4S
